US04229459
33 g (0.1 mol) of 1-(2,4-dichlorophenoxy)-3,3-dimethyl-1-imidazol-1-yl-butan-2-ol were dissolved in 150 ml of dioxane and the solution was added dropwise to 3.5 g of 80% strength sodium hydride in 150 ml of dioxane. The mixture was stirred for 3 hours at room temperature. After addition of 13.1 g (0.12 mol) of ethyl bromide, the mixture was stirred under reflux for further 17 hours. After cooling, the solvent was distilled off in vacuo, the residue was taken up in 600 ml of methylene chloride and the methylene chloride solution was washed twice with 1,000 ml of water each time, dried over sodium sulphate and distilled under a high vacuum. 10 g (28% of theory) of 2-ethoxy-1-(2,4-dichlorophenoxy)-3,3-dimethyl-1-imidazol-1-yl-butane of boiling point 170°-175° C./0.2 mm Hg were obtained.

reactant | 1-(2,4-dichlorophenoxy)-3,3-dimethyl-1-imidazol-1-yl-butan-2-ol | 0.1 mol, 33 g | ClC1=C(OC(C(C(C)(C)C)O)N2C=NC=C2)C=CC(=C1)Cl | C15H18Cl2N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl bromide | 0.12 mol, 13.1 g | C(C)Br | C2H5Br
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 2-ethoxy-1-(2,4-dichlorophenoxy)-3,3-dimethyl-1-imidazol-1-yl-butane | 10 g, 28% | C(C)OC(C(N1C=NC=C1)OC1=C(C=C(C=C1)Cl)Cl)C(C)(C)C | C17H22Cl2N2O2
